US06410594B1
A mixture of cis-3-azidomethylcyclopentancarboxylic acid (0.9 g, 5.3 mmol) in methanol (about 30 mL) was hydrogenated at about 50 psi and room temperature in the presence of 10% Pd on carbon (about 40 mg) for about 1 h. The catalyst was removed by filtration and the filtrate concentrated to give a syrup. When the syrup was dissolved in dimethylformamide and dichloromethane for acetylation (next step), formation of some white precipitate occurred. The precipitate was collected by filtration, washed with dichloromethane and dried to give cis-3-aminomethylcyclopentanecarboxylic acid as a white powder, mp 186-188° C. The yield of syrup was 0.7 g (100%). The white solid obtained was about 0.35 g. The remainder of the material from the dimethylformamide and dichloromethane mixture was not recovered, but was used for the acetylation step.

reactant | cis-3-azidomethylcyclopentancarboxylic acid | 5.3 mmol, 0.9 g | N(=[N+]=[N-])C[C@H]1C[C@H](CC1)C(=O)O | C7H11N3O2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | about 30 mL | CO | CH4O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | Pd on carbon | about 40 mg | [Pd] | Pd
product | cis-3-aminomethylcyclopentanecarboxylic acid | NC[C@H]1C[C@H](CC1)C(=O)O | C7H13NO2
